US06355640B1
To a solution of 3-[2-(2-oxopyrrolidin-3-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (740 mg) in N,N-dimethylformamide (5 ml) was added 60% sodium hydride in mineral oil (120 mg) at 0° C. After the mixture was stirred for 30 minutes, to this was added ethyl 2-bromoacetate (0.22 ml). After the reaction mixture was stirred at 0° C. for 1 hour, it was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The crude material was purified by column chromatography on silica gel (CHCl3—CHCl3:MeOH (30:1)) to give 3-[2-(1-ethoxycarbonylmethyl-2-oxopyrrolidin-3-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.7 g) (yellow oil).

reactant | 3-[2-(2-oxopyrrolidin-3-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 740 mg | O=C1NCCC1N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C21H17N5O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 0.22 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-[2-(1-ethoxycarbonylmethyl-2-oxopyrrolidin-3-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.7 g | C(C)OC(=O)CN1C(C(CC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=O | C25H23N5O4
